US09290476B2
(4-Chloro-2-methoxy-3-(4-(methylsulfonyl)benzyl)quinolin-6-yl)(1-methyl-1H-imidazol-5-yl)methanone
A mixture of (2,4-dichloro-3-(4-(methylsulfonyl)benzyl)quinolin-6-yl)(1-methyl-1H-imidazol-5-yl)methanone (1 g, 2.085 mmol, Intermediate 38: step a) and solid sodium methoxide (0.56 g, 10.42 mmol) in toluene (10 mL) was heated in a sealed tube at 105° C. for 12 hours, cooled to room temperature, diluted with DCM and the resulting suspension filtered through Celite® rinsing several times with CH2Cl2. The solvents were removed under reduced pressure and the residue chromatographed (Heptane/EtOAc) to provide the title compound as a white solid.

reactant | (2,4-dichloro-3-(4-(methylsulfonyl)benzyl)quinolin-6-yl)(1-methyl-1H-imidazol-5-yl)methanone | ClC1=NC2=CC=C(C=C2C(=C1CC1=CC=C(C=C1)S(=O)(=O)C)Cl)C(=O)C1=CN=CN1C | C22H17Cl2N3O3S
reactant | sodium methoxide | 10.42 mmol, 0.56 g | C[O-].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (4-Chloro-2-methoxy-3-(4-(methylsulfonyl)benzyl)quinolin-6-yl)(1-methyl-1H-imidazol-5-yl)methanone | ClC1=C(C(=NC2=CC=C(C=C12)C(=O)C1=CN=CN1C)OC)CC1=CC=C(C=C1)S(=O)(=O)C | C23H20ClN3O4S
